US07855216B2
Step 3: 1-Methyl-3-(nonafluorobutane-1-sulfonyloxy)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
To a stirred solution of 3-hydroxy-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (695 mg, 3.16 mmol) and DMAP (19 mg, 0.16 mmol) in DCM (10 ml) at 0° C. was added DIPEA (1.35 ml, 7.58 mmol) and nonafluorobutylsulfonyl fluoride (0.74 ml, 4.10 mmol). After 10 minutes the reaction was warmed to room temperature and stirred for an additional 4.5 hours. The reaction mixture was diluted with DCM (50 ml) and washed with water (30 ml). The organic phase was isolated, dried over sodium sulphate then filtered and evaporated to give a yellow oil. The oil was purified by flash chromatography (Si-PPC, pentane:ethyl acetate, gradient 100:0 to 60:40) to afford the title compound as a colourless oil which crystallised on standing (1.43 g, 90%). LCMS (method B): RT=3.28 min, M+H+=505.

reactant | 3-hydroxy-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 3.16 mmol, 695 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)O | C11H12N2O3
reactant | DIPEA | 7.58 mmol, 1.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | nonafluorobutylsulfonyl fluoride | 4.10 mmol, 0.74 ml | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
catalyst | DMAP | 0.16 mmol, 19 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-(nonafluorobutane-1-sulfonyloxy)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C15H11F9N2O5S
